US07569589B2
In a flame dried flask under N2, benzophenone (0.514 g, 2.82 mmol) was dissolved in anhydrous dioxane (5 mL). Ti(IV) ethoxide (1.479 mL, 7.05 mmol) was added followed by (S)-(−)-2-methyl-2-propanesulfinamide (0.376 g, 3.10 mmol). The rxn was heated to 105° C. After 4.5 hr the reaction was cooled to RT and brine (15 mL) was added. A precipitate formed and the reaction was rapidly stirred for 10 min. The suspension was filtered through celite and the filter cake was washed with brine and ethyl acetate. The layers of the filtrate were separated. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo to afford a yellow oil. The oil was purified by flash column chromatography (90:10 hexanes/ethyl acetate). The fractions were combined and concentrated in vacuo to afford (S)-N-(diphenylmethylene)-2-methylpropane-2-sulfinamide as a light yellow oil. 1H NMR (CDCl3) δ 7.51-7.43 (broad m, 10H), 1.30 (s, 9H). [M+H]+=286.1.

reactant | benzophenone | 2.82 mmol, 0.514 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | (S)-(−)-2-methyl-2-propanesulfinamide | 3.10 mmol, 0.376 g | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | brine | 15 mL | [Cl-].[Na+].O
product | (S)-N-(diphenylmethylene)-2-methylpropane-2-sulfinamide | C1(=CC=CC=C1)C(=N[S@@](=O)C(C)(C)C)C1=CC=CC=C1 | C17H19NOS
